* C:\ee311-team06\Smarts\LTSpice\ovp_ocp_voltage_current_sensing\currentsensing.asc
* Generated by LTspice 24.1.10 for Windows.
V1 VCC 0 5
V2 VCC_HALF 0 2.5
V3 NC_01 0 SINE(3 0.5 10k)
R10 N001 0 1k
R11 Vis N001 47k
R13 N002 VCC_HALF 47k
V5 Visc 0 PULSE(-20m 20m 0 10u 10u 0.5m 1m)
R1 N002 Vscu 1k
X§U2 N002 N001 VCC 0 Vis level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg ;§pnba In+)In-)V+)V-)OUT
I1 Vscu 0 PULSE(0 4 0 1n 1n 0.5m 1m)
R2 0 Vscu 10m
R3 Vovp N004 220k
R4 VCC Vovp 10k
R5 N004 N005 10k
R6 VCC N003 1.2k
R7 N003 0 8.7k
C1 N003 0 0.1µ
X§U1 N004 N003 VCC 0 Vovp TLC081 ;§pnba In+)In-)V+)V-)OUT
V4 N005 0 4.5
.tran 0 40m 0 1u
.inc C:\Users\kktjg\OneDrive\Desktop\ee311_smarts\TLC081.mod
.inc "LM324.lib copy"
* change in V = VUT - VLT = 2*R6/R8*V+
.lib UniversalOpAmp2.lib
.backanno
.end
