* C:\Users\wzhao\Documents\ee311-team06\Temp_sensing\Touch_Sensing.asc
* Generated by LTspice 24.1.9 for Windows.
R1 V_NODE N001 470k
Ceff V_NODE 0 20p
V1 N001 0 PULSE(0 5 1u 1n 1n 200u 400u)
R2 GPIO V_NODE 10k
* TOUCH SENSING CCT
.tran 100u
.backanno
.end
